US04109093
A process for preparing 2-(4'-aminophenyl) 5-amino benzimidazole, a known intermediate used in the synthesis of azo dyes, is disclosed wherein p-nitrobenzoic acid is condensed with aniline, and the N(4'-nitrobenzoyl) aniline produced is dinitrited to N(4'-nitrobenzoyl) 2,4-dinitroaniline; the latter is reduced to the corresponding triamine, which, upon cyclodehydration, results in the 2-(4'-aminophenyl) 5-amino benzimidazole.

reactant | 2-(4'-aminophenyl) 5-amino benzimidazole | NC1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)N | C13H12N4
reactant | p-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N(4'-nitrobenzoyl) aniline | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H10N2O3
